US08349869B2
Step 1: synthesis of N-(tert-butyloxycarbonyl)-3-methoxy-2-methylaniline (32)
Triethylamine (42.4 mL, 302 mmol) was added to a suspension of 3-methoxy-2-methylbenzoic acid (45.6 g, 274 mmol) in dry toluene (800 mL). A clear solution was obtained. Then, dppa (65.4 mL, 302 mmol) in toluene (100 mL) was slowly added. After 1 h at room temperature, the reaction mixture was successively heated at 50° C. for 0.5 h, at 70° C. for 0.5 h then at 100° C. for 1 h. To this solution, t-BuOH (30.5 g, 411 mmol) in toluene (40 mL) was added at 100° C. and the resulting mixture was refluxed for 7 h. The solution was cooled to room temperature then successively washed with water, 0.5 N HCl, 0.5 N NaOH and brine, dried (Na2SO4), and evaporated to give 67 g of the target product: m/z=237 (M)+.

reactant | Triethylamine | 302 mmol, 42.4 mL | C(C)N(CC)CC | C6H15N
reactant | 3-methoxy-2-methylbenzoic acid | 274 mmol, 45.6 g | COC=1C(=C(C(=O)O)C=CC1)C | C9H10O3
reactant | dppa | 302 mmol, 65.4 mL | C[C@@H]1C[C@@]2([C@@H](C2(C)C)[C@H]3[C@]1([C@@H]4C=C(C(=O)[C@]4(CC(=C3)COC(=O)C)O)C)O)OC(=O)CC5=CC=CC=C5 | C30H36O7
reactant | t-BuOH | 411 mmol, 30.5 g | CC(C)(C)O | C4H10O
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-(tert-butyloxycarbonyl)-3-methoxy-2-methylaniline | 67 g | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)OC)C | C13H19NO3
